** sch_path: /home/tp/xschem/lm324-xover-distort.sch
**.subckt lm324-xover-distort
x1 sigin sigout VCC VSS sigout lm324
r1 sigout VSS 1k m=1
c1 sigout VSS 1n m=1
* noconn sigin
* noconn VCC
r2 VCC sigout 1k m=1
V1 VCC 0 10
V2 0 VSS 10
**** begin user architecture code



.option RUNLVL=5 post
** .param VCC=10
** .param VSS=-10
.temp  25
** vvcc vcc 0 dc VCC
** vvss vss 0 dc VSS
vp sigin 0 pwl 0 0 100n 2 200u 2 201u 3 400u 3 401u -5

** models are generally not free: you must download
** SPICE models for active devices and put them  into the below
** referenced file in netlist/simulation directory.
.include lm324.mod
.tran 0.1u 500u


**** end user architecture code
**.ends
.end
